US04202894
A mixture of 172 g of α-methyl-allylidene diacetate and 160 g of p-tert.amyl-benzene is allowed to drop in to a mixture, cooled to -10° C., of 637 g of p-tert.amyl-benzene, 211 g of titanium tetrachloride and 3 g of boron trifluoride etherate while stirring over a period of 1.5 hours. The mixture is subsequently stirred at -10° C. for 45 minutes and then poured on to a mixture of 800 ml of ice-water and 140 ml of concentrated hydrochloric acid in order to hydrolyse the titanium tetrachloride. The organic layer is separated, washed neutral with water and 5% sodium bicarbonate solution, dried over sodium sulphate and the excess p-tert.amyl-benzene is distilled in a water-jet vacuum. (Boiling point 108° C./20 Torr). The residue, crude 3-(p-tert.amyl-phenyl)-2-methyl-1-propenyl acetate, is taken up in 190 ml of methanol, treated with a solution of 80 g of potassium carbonate in 145 ml of water and heated at reflux with intensive stirring until the saponification has been completed. The methanol is distilled and the organic phase is separated and distilled. There is obtained pure 3-(p-tert.amyl-phenyl)-2-methyl-propionaldehyde of boiling point 109°-111° C./0.06 Torr.

reactant | α-methyl-allylidene diacetate | 172 g | C(C)(=O)OC(C=C)(C)OC(C)=O | C8H12O4
reactant | p-tert.amyl-benzene | 160 g | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
reactant | p-tert.amyl-benzene | 637 g | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
reactant | boron trifluoride etherate | 3 g | B(F)(F)F.CCOCC
catalyst | titanium tetrachloride | 211 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | hydrochloric acid | 140 ml | Cl | ClH
product | 3-(p-tert.amyl-phenyl)-2-methyl-propionaldehyde | C(C)(C)(CC)C1=CC=C(C=C1)CC(C=O)C | C15H22O
